US08975415B2
To a mixture of (4-amino-6-bromo-4H-spiro[chromene-3,3′-oxetan]-4-yl)methanol (280 mg, 0.933 mmol), CH2Cl2 (10 mL) and saturated aqueous NaHCO3 (10 mL) was added a mixture of chloroacetyl chloride (0.083 mL, 1.02 mmol) and CH2Cl2 (1 mL) at ambient temperature. After stirring for 30 minutes at ambient temperature, chloroacetyl chloride (0.016 mL, 0.197 mmol) was added to the reaction mixture. The mixture was stirred for 10 minutes at ambient temperature, diluted with CH2Cl2 and separated. The organic layer was washed with water, dried over MgSO4 and filtered. Concentration of the filtrate at reduced pressure gave crude N-[6-bromo-4-(hydroxymethyl)-4H-spiro[chromene-3,3′-oxetan]-4-yl]-2-chloroacetamide, which was used for the next reaction without further purification.

reactant | (4-amino-6-bromo-4H-spiro[chromene-3,3′-oxetan]-4-yl)methanol | 0.933 mmol, 280 mg | NC1(C2=CC(=CC=C2OCC12COC2)Br)CO | C12H14BrNO3
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
reactant | chloroacetyl chloride | 1.02 mmol, 0.083 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroacetyl chloride | 0.197 mmol, 0.016 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[6-bromo-4-(hydroxymethyl)-4H-spiro[chromene-3,3′-oxetan]-4-yl]-2-chloroacetamide | BrC=1C=C2C(C3(COC3)COC2=CC1)(CO)NC(CCl)=O | C14H15BrClNO4
